// Generated for: spectre
// Generated on: May  9 16:13:08 2019
// Design library name: AAAFOO_TEST_OP_AMP
// Design cell name:
//OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_MEAS_opamp_ac_TB_ac
// Design view name: config
simulator lang=spectre
global 0
parameters tail2={{tail2}} in={{in}} ngm2={{ngm2}} tailcm={{tailcm}}
parameters diode2={{diode2}} ngm1={{ngm1}} diode1={{diode1}} ref={{ref}} tail1={{tail1}}

parameters cfb={{cfb}} gain_cmfb=2.000000e+02 rfb={{rfb}} \
    vincm=5.000000e-01 voutcm=5.000000e-01 cload=2.200000e-14 \
    fndec=1.000000e+01 fstop=1.000000e+10 fstart=1.000000e+04 \
    ibias=2.000000e-06 vdd=1.000000e+00
include "/tools/tstech16/CLN16FFC/PDK_RF/models/crn16ffcll_1d8_sp_v1d0_2p1_usage.scs" section=TTMacro_MOS_MOSCAP
include "/tools/tstech16/CLN16FFC/PDK_RF/models/crn16ffcll_1d8_sp_v1d0_2p1_usage.scs" section=TT_RES_BIP_DIO_DISRES
include "/tools/tstech16/CLN16FFC/PDK_RF/models/crn16ffcll_1d8_sp_v1d0_2p1_usage.scs" section=TT_MOM
include "/tools/tstech16/CLN16FFC/PDK_RF/models/crn16ffcll_1d8_sp_v1d0_2p1_usage.scs" section=TT_SCR
include "/tools/tstech16/CLN16FFC/PDK_RF/models/crn16ffcll_1d8_sp_v1d0_2p1_usage.scs" section=TT_R_METAL

// Library name: analogLib
// Cell name: ideal_balun
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun
// End of subcircuit definition.

// Library name: BAG_prim
// Cell name: pmos4_lvt
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pmos4_lvt B D G S
parameters l=60n w=500n nf=1
    M0 (D G S B) pch_lvt_mac l=l nfin=w w=10n+48n*(w-1) multi=1 nf=nf \
        sd=74.0n sa=90n sb=90n ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
ends pmos4_lvt
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: pch_stack_6
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pch_stack_6 B D G S
    XP (B D G S) pmos4_lvt l=90n w=4 nf=tail2
ends pch_stack_6
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: pch_stack_cm
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pch_stack_cm B D G S
    XP (B D G S) pmos4_lvt l=90n w=4 nf=tailcm
ends pch_stack_cm
// End of subcircuit definition.

// Library name: BAG_prim
// Cell name: nmos4_lvt
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt nmos4_lvt B D G S
parameters l=60n w=500n nf=1
    M0 (D G S B) nch_lvt_mac l=l nfin=w w=10n+48n*(w-1) multi=1 nf=nf \
        sd=74.0n sa=90n sb=90n ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
ends nmos4_lvt
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: nch_stack_8
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt nch_stack_8 B D G S
    XN (B D G S) nmos4_lvt l=90n w=4 nf=diode2
ends nch_stack_8
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: nch_stack_gm
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt nch_stack_gm B D G S
    XN (B D G S) nmos4_lvt l=90n w=4 nf=ngm1
ends nch_stack_gm
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: nch_stack_6
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt nch_stack_6 B D G S
    XN (B D G S) nmos4_lvt l=90n w=4 nf=ngm2
ends nch_stack_6
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: nch_stack_5
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt nch_stack_5 B D G S
    XN (B D G S) nmos4_lvt l=90n w=4 nf=diode1
ends nch_stack_5
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: pch_stack_3
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pch_stack_3 B D G S
    XP (B D G S) pmos4_lvt l=90n w=4 nf=ref
ends pch_stack_3
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: pch_stack_tail
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pch_stack_tail B D G S
    XP (B D G S) pmos4_lvt l=90n w=4 nf=tail1*2
ends pch_stack_tail
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: pch_stack
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt pch_stack B D G S
    XP (B D G S) pmos4_lvt l=90n w=4 nf=in
ends pch_stack
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name: OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC midn midp outn \
        outp VDD VSS bias cmbias inn inp ref
    XCML (VDD outp cmbias VDD) pch_stack_cm
    XTAIL2L (VDD outp bias VDD) pch_stack_6
    XCMR (VDD outn cmbias VDD) pch_stack_cm
    XTAIL2R (VDD outn bias VDD) pch_stack_6
    XDUMMY0 (VSS VSS VSS VSS) nmos4_lvt l=90n w=4 nf=36
    XDUMMY2 (VSS midp VSS VSS) nmos4_lvt l=90n w=4 nf=2
    XDUMMY1 (VSS midn VSS VSS) nmos4_lvt l=90n w=4 nf=2
    XDIO2L (VSS outp midn VSS) nch_stack_8
    XDIO2R (VSS outn midp VSS) nch_stack_8
    XNGML (VSS midn midp VSS) nch_stack_gm
    XNGMR (VSS midp midn VSS) nch_stack_gm
    XDUMMY5 (VDD midn VDD VDD) pmos4_lvt l=90n w=4 nf=2
    XDUMMY4 (VDD bias VDD VDD) pmos4_lvt l=90n w=4 nf=2
    XDUMMY3 (VDD VDD VDD VDD) pmos4_lvt l=90n w=4 nf=114
    XDUMMY6 (VDD midp VDD VDD) pmos4_lvt l=90n w=4 nf=2
    XNGM2L (VSS outp midn VSS) nch_stack_6
    XNGM2R (VSS outn midp VSS) nch_stack_6
    XDIOR (VSS midp midp VSS) nch_stack_5
    XDIOL (VSS midn midn VSS) nch_stack_5
    XRES (VDD bias ref tail_ref) pch_stack_3
    XREF (VDD tail_ref bias VDD) pch_stack_3
    XTAIL (VDD tail bias VDD) pch_stack_tail
    XINR (VDD midp inn tail) pch_stack
    XINL (VDD midn inp tail) pch_stack
ends OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name:
//OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_WRAPPER_opamp_dm
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
subckt \
        OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_WRAPPER_opamp_dm \
        midac middc outac outdc VDD VSS ibias inac indc voutcm
    XBALMID (midac middc midp midn) ideal_balun
    XBALOUT (outac outdc outp outn) ideal_balun
    XBALIN (inac indc inp inn) ideal_balun
    ECMFB (cmbias VSS outdc voutcm) vcvs gain=gain_cmfb min=0.0 max=vdd
    CFBP (outp xp) capacitor c=cfb
    CFBN (outn xn) capacitor c=cfb
    COUTN (outn VSS) capacitor c=cload
    COUTP (outp VSS) capacitor c=cload
    RFBP (midn xp) resistor r=rfb c=200f
    RFBN (midp xn) resistor r=rfb c=200f
    XDUT (midn midp outn outp VDD VSS ibias cmbias inn inp indc) \
        OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC
ends OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_WRAPPER_opamp_dm
// End of subcircuit definition.

// Library name: AAAFOO_TEST_OP_AMP
// Cell name:
// OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_MEAS_opamp_ac_TB_ac
// View name: schematic
// Inherited view list: spectre schematic calibre veriloga
IBIAS (ibias VSS) isource dc=ibias type=dc
VSUP (VDD VSS) vsource dc=vdd mag=1 type=dc
VOUTCM (outcm VSS) vsource dc=voutcm mag=1 type=dc
VINCM (incm VSS) vsource dc=vincm mag=1 type=dc
VGND (VSS 0) vsource dc=0 type=dc
VINAC (vin VSS) vsource dc=0 mag=1 type=dc
XDUT (midac middc vout outdc VDD VSS ibias vin incm outcm) \
        OPAMP_TWO_STAGE_lch_90n_swp_spec_file_params_1S6thzC_WRAPPER_opamp_dm
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=25.0 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=fstart stop=fstop dec=fndec annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
