// Generated for: spectre
// Generated on: Dec 11 14:50:39 2019
// Design library name: bag_photonic_links
// Design cell name: two_stage_amp
// Design view name: schematic
simulator lang=spectre
global 0 sub!
include "/tools/projects/ISG/isg_chips/projects/BAG_45RFSOI_Workspace/cad/lib/models/spectre.model" section=TT
include "/tools/projects/ISG/isg_chips/projects/BAG_45RFSOI_Workspace/cad/lib/lvsres.sp"

parameters cc={{cc}} load={{load}} load2={{load2}} mir={{mir}} gm={{gm}} in={{in}} tail={{tail}} 
parameters wload={{wload}} wload2={{wload2}} wmir={{wmir}} wgm={{wgm}} win={{win}} wtail={{wtail}} 

// Library name: bag_photonic_links
// Cell name: two_stage_amp
// View name: schematic
T0 (out net7 VDD sub! VDD) d_avtapfet_bc l=112.00n w=wload2 nf=load2 m=1 \
        par=1 gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T7 (net7 net4 VDD sub! VDD) d_avtapfet_bc l=112.00n w=wload nf=load m=1 \
        par=1 gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T6 (net4 net4 VDD sub! VDD) d_avtapfet_bc l=112.00n w=wload nf=load m=1 \
        par=1 gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
V2 (in 0) vsource dc=0 mag=1.0 type=dc
V1 (VDD 0) vsource dc=1.2 type=dc
V3 (cm 0) vsource dc=600.0m type=dc
I0 (VDD net1) isource dc=30u type=dc
C1 (out 0) capacitor c=10p
C0 (out net7) capacitor c=cc
E1 (inp cm in gnd) vcvs gain=0.5
E0 (inn cm in gnd) vcvs gain=-0.5
T2 (net6 net1 0 sub! 0) d_avtanfet_bc l=112.00n w=wtail nf=tail m=1 par=1 \
        gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T1 (net4 inn net6 sub! 0) d_avtanfet_bc l=112.00n w=win nf=in m=1 par=1 \
        gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T3 (out net1 0 sub! 0) d_avtanfet_bc l=112.00n w=wgm nf=gm m=1 par=1 \
        gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T5 (net7 inp net6 sub! 0) d_avtanfet_bc l=112.00n w=win nf=in m=1 par=1 \
        gcon=1 optNum=0 diffL=156.00n diffM=224.00n diffR=156.00n \
        diffB=274n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.1713 nrd=0.1713 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
T4 (net1 net1 0 sub! 0) d_avtnfet_bc l=56.0n w=wmir nf=mir m=1 par=1 \
        gcon=1 optNum=0 diffL=206.00n diffM=324.00n diffR=206.00n \
        diffB=226n local_sigma=0 pu0mult=1e35 pla=0.0 pvta=0 plnest=1 \
        plorient=1 pld200=1 pre_layout_local=-1 pdevdops=1 pdevlgeos=1 \
        pdevwgeos=1 psw_acv_sign=1 nrs=0.2477 nrd=0.2477 as=-1 ad=-1 ps=-1 \
        pd=-1 agbcp=-1 aebcp=-1 psbcp=-1 pdbcp=-1 pebcp=-1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=10G dec=10 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
